US09079866B2
5-[2′-(1,1-Dioxidoisothiazolidin-2-yl)-3-fluorobiphenyl-4-yl]pyrimidin-2-amine
Title compound was prepared using methods analogous to those described in Example 384 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine and 2-(2-bromophenyl)isothiazolidine 1,1-dioxide. MS (ESI): mass calcd. for C19H17FN4O2S, 384.11; m/z found, 385.0 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 8.58 (d, J=1.4, 2H), 7.78-7.71 (m, 1H), 7.69-7.58 (m, 1H), 7.50-7.32 (m, 4H), 7.29-7.20 (m, 1H), 5.21 (s, 2H), 3.77 (t, J=6.8, 1H), 3.43-3.17 (m, 2H), 2.67-2.47 (m, 1H), 2.42-2.17 (m, 2H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
reactant | 2-(2-bromophenyl)isothiazolidine 1,1-dioxide | BrC1=C(C=CC=C1)N1S(CCC1)(=O)=O | C9H10BrNO2S
product | 5-[2′-(1,1-Dioxidoisothiazolidin-2-yl)-3-fluorobiphenyl-4-yl]pyrimidin-2-amine | O=S1(N(CCC1)C1=C(C=CC=C1)C1=CC(=C(C=C1)C=1C=NC(=NC1)N)F)=O | C19H17FN4O2S
